US05607898
80 ml of acetone, 9.1 g (0.06 mol) of 1-bromo-3-methyl-2-butene and 8.0 g (0.058 mol) of anhydrous potassium carbonate were added to 8.0 g (0.058 mol) of 2,5-dimethylthiophenol, and the mixture was refluxed under heat for 1 hour. After the completion of the reaction, a formed salt was removed by filtration, and the acetone was distilled off under reduced pressure. Then, ethyl acetate was added to the residue, and the mixture was washed with a saturated sodium chloride aqueous solution. The mixture was dried over anhydrous sodium sulfate, and then the ethylacetate was distilled off to give 12 g (yield 100%) of 2-methyl-4-(2,5-dimethylphenyl)thio-2-butene.

reactant | 1-bromo-3-methyl-2-butene | 0.06 mol, 9.1 g | BrCC=C(C)C | C5H9Br
reactant | potassium carbonate | 0.058 mol, 8.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,5-dimethylthiophenol | 0.058 mol, 8.0 g | CC1=C(C=C(C=C1)C)S | C8H10S
solvent | acetone | 80 ml | CC(=O)C | C3H6O
product | 2-methyl-4-(2,5-dimethylphenyl)thio-2-butene | 12 g, yield 100% | CC(C)=CCSC1=C(C=CC(=C1)C)C | C13H18S
